US05874427
3-(1,2,3,4,5,8-Hexahydroindolizin-7-yl)-1H-indole
Potassium hydroxide (10% in methanol, 15 ml, 26.8 mmol), 1H-indole (1.5 g, 13 mmol), and 7-indolizinone (1.39 g, 10 mmol) were combined and heated to reflux for 15 hours. The mixture was diluted with water and the precipitate was filtered. The brown filter cake was triturated with hot methanol, cooled to room temperature, and the solid collected to give 1.99 g of desired product. (84%).

reactant | Potassium hydroxide | 26.8 mmol, 15 ml | [OH-].[K+]
reactant | 1H-indole | 13 mmol, 1.5 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 7-indolizinone | 10 mmol, 1.39 g | C1=CCN2C=CC(C=C12)=O | C8H7NO
solvent | water | O | H2O
product | 3-(1,2,3,4,5,8-Hexahydroindolizin-7-yl)-1H-indole | 1.99 g | C1CCN2CC=C(CC12)C1=CNC2=CC=CC=C12 | C16H18N2
